US07888364B2
N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-ethylpiperazin-1-ylsulfonyl)benzamide
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 570 mg of 1-ethylpiperazine via Procedure H. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(4-ethylpiperazin-1-ylsulfonyl)benzoic acid via Procedure G and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-ethylpiperazin-1-ylsulfonyl). MS (Q1) 485 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 1-ethylpiperazine | 570 mg | C(C)N1CCNCC1 | C6H14N2
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(4-ethylpiperazin-1-ylsulfonyl)benzoic acid | C(C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H18N2O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-ethylpiperazin-1-ylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)CC)=O)C1=NC=CC=C1 | C24H25ClN4O3S
